US03962440
1-METHYL-7-TRIFLUOROMETHYL-2(1H), 3(4H)-QUINOXALINEDIONE
1-Methyl-7-trifluoromethyl-2(1H)-quinoxalinone (2.68 grams) was dissolved in 20 ml. of acetic acid and 20 ml. of 30 percent hydrogen peroxide were added. The reaction mixture was held at room temperature for 24 hours, by which time a solid had separated out. It was collected by filtration. NMR and microanalysis confirmed that the product was 1-methyl-7-trifluoromethyl-2(1H), 3(4H)-quinoxalinedione. The product melted at 283°-287°C.

reactant | 1-Methyl-7-trifluoromethyl-2(1H)-quinoxalinone | 2.68 grams | CN1C(C=NC2=CC=C(C=C12)C(F)(F)F)=O | C10H7F3N2O
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-METHYL-7-TRIFLUOROMETHYL-2(1H), 3(4H)-QUINOXALINEDIONE | CN1C(C(NC2=CC=C(C=C12)C(F)(F)F)=O)=O | C10H7F3N2O2
